US05616586
A mixture of ethyl quinaldinate (58.0 g, 0.288 mol), ethyl acetate (42.6 mL, 0.432 mol), and sodium ethoxide (29.4 g, 0.432 mol) in toluene (1 L) was heated at reflux temperature for 2 h. The mixture was neutralized by addition of diluted hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate, and concentrated. The residue was purified with silica gel column chromatography with 15:1 to 3:1 hexane/ethyl acetate to give 32.34 g of 2-ethoxycarbonylmethylcarbonylquinoline (46%): 1H NMR (270 MHz, CDCl3) δ8.28 (d, 1H, J=8.3 Hz), 8.17 (dd, 1H, J=8.2, 1 Hz), 8.14 (d, 1H, J=8.3 Hz), 7.84 (dd, 1H, J=8.2, 1 Hz), 7.79 (td, 1H, J=8.2, 1 Hz), 7.66 (td, 1H, J=8.2, 1 Hz), 4.36 (s, 2H), 4.22 (q, 2H, J=7.3 Hz), 1.24 (t, 3H, J=7.3 Hz).

reactant | ethyl quinaldinate | 0.288 mol, 58.0 g | N1=C(CC(=O)OCC)C=CC2=CC=CC=C12 | C13H13NO2
reactant | ethyl acetate | 0.432 mol, 42.6 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium ethoxide | 0.432 mol, 29.4 g | [O-]CC.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | 2-ethoxycarbonylmethylcarbonylquinoline | 32.34 g, 46% | C(C)OC(=O)CC(=O)C1=NC2=CC=CC=C2C=C1 | C14H13NO3
